US09340538B2
Step A: Ethyl 4-(2-chloro-4-fluorophenyl)-1,6-dimethyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
A mixture of ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (2 g, 5.3 mmol), iodomethane (0.97 g, 6.84 mmol) and potassium carbonate (1.47 g, 10.6 mmol) in acetonitrile (50 mL) was stirred at 70° C. for 12 hours, and cooled to 25° C. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (PETROLEUM ETHER/EtOAc (V/V)=3/1) to give the title compound as a tawny solid (1.0 g, 48%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 5.3 mmol, 2 g | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=CN1 | C17H15ClFN3O2S
reactant | iodomethane | 6.84 mmol, 0.97 g | IC | CH3I
reactant | potassium carbonate | 10.6 mmol, 1.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Ethyl 4-(2-chloro-4-fluorophenyl)-1,6-dimethyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.0 g, 48% | ClC1=C(C=CC(=C1)F)C1N=C(N(C(=C1C(=O)OCC)C)C)C=1SC=CN1 | C18H17ClFN3O2S
